Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([C:2](=[O:3])[C:4]([C:5]#[C:6][H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]1=[C:5]([C:6](=[O:3])[H:12])[C:4]1([H:10])[H:11])([H:7])([H:8])[H:9],80.1779561322729
[O:1]([C@@:2]([C:3](=[O:4])[H:9])([C:5]#[N:6])[H:8])[H:7]>>[O:1]([O:4]/[C:3](=[C:2](/[C:5]#[N:6])[H:8])[H:9])[H:7],84.9079792229735
[N:1](=[C:2]1/[C:3]([H:8])=[C:4]([H:9])[C:5]([H:10])([H:11])[O:6]1)\[H:7]>>[N:1]([C+:2]=[C:3]([C:4](=[C:5]([H:10])[H:11])[H:9])[H:8])([O-:6])[H:7],111.876166793041
[O:1]([C:2]([C:3]([C@@:4]([O:5][H:14])([C:6]#[C:7][H:15])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C@@:3]1([H:11])[C@:4]([O:5][H:14])([H:13])[C:6]1=[C:7]([H:12])[H:15])([H:9])[H:10])[H:8],91.3954720476441
[O:1]([C:2]1([H:8])[C:3]([H:9])([H:10])[C:4](=[O:5])[C:6]1([H:11])[H:12])[H:7]>>[O:1]([C@@:2]([C:3](=[C:4]=[O:5])[H:10])([C:6]([H:9])([H:11])[H:12])[H:8])[H:7],69.5918450617276
[O:1]([C@@:2]([C:3]([C:4]#[N:5])([H:10])[H:11])([C:6]#[C:7][H:12])[H:9])[H:8]>>[O:1]([C@@:2]([C:3](=[C:4]=[N:5][H:10])[H:11])([C:6]#[C:7][H:12])[H:9])[H:8],81.50786485582151
[C@:1]12([H:9])[C:2]([H:11])([H:12])[C@@:3]13[C@:4]2([H:13])[N:5]([H:14])[N:6]=[N:7]3.[H:8][H:10]>>[C:1]([C:2]([c:3]1[c:4]([H:13])[n:5]([H:14])[n:6][n:7]1)([H:11])[H:12])([H:8])([H:9])[H:10],21.857104459769886
[H:8][H:10].[N:1](=[C:2]1\[O:3][C@:4]1([C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])[H:11])\[H:9]>>[N:1]([C:2](=[O:3])[C:4]([C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9],25.81239782531931
[N:1]([C:2](=[O:3])[H:6])([H:4])[H:5]>>[N:1](=[C:2](/[O:3][H:4])[H:6])\[H:5],41.9818652052154
[C:1]([C:2]([C:3]=[O:4])([H:10])[H:11])([H:7])([H:8])[H:9].[N:5]([C:6]([H:13])[H:14])([H:12])[H:15]>>[C:1]([C:2]([C:3](=[O:4])[N:5]([C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],12.156074425898396
[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([H:15])([H:16])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[C:6]([O:7][H:19])[H:17]>>[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6]([O:7][H:19])([H:17])[H:18])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],11.375513346524997
[O:1]([N:2]=[C:3]=[C:6]([N:5]([C:4]([H:8])([H:9])[H:12])[H:10])[H:11])[H:7]>>[O:1]([N:2]=[C:3]1[C:4]([H:8])([H:9])[N:5]([H:10])[C:6]1([H:11])[H:12])[H:7],70.79199496680343
[C:1]([O:2][C:3]([C:4]([O:5][H:17])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[C:6](=[O:7])([H:15])[H:16]>>[C:1]([O:2][C:3]([C@@:4]([O:5][H:14])([C:6]([O:7][H:17])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],73.259663776552
[C:1]([O:2][C:3]([C:4]([O:5][H:13])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([O:2][C:4]([O:5][H:13])([H:11])[H:12])([H:6])([H:7])[H:8].[C:3]([H:9])[H:10],88.07835354281609
[C:1](/[N:2]=[C:3](\[N:4]([H:10])[H:11])[C:5](=[O:6])[H:12])([H:7])([H:8])[H:9]>>[C:1](/[C:3](=[N:2]/[C:5](=[O:6])[H:12])[N:4]([H:10])[H:11])([H:7])([H:8])[H:9],106.176328274769
[O:1]([C@@:2]([C:3][H:9])([C:4]([C:5]#[N:6])([H:10])[H:11])[H:8])[H:7]>>[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5]#[N:6])[H:11])[H:7],0.2760134096510001
[C:3]1[C:4]([H:8])([H:9])[N:5]1[H:10].[O:1]=[C:2]([H:6])[H:7]>>[O:1]=[C:2]([C@@:3]1([H:7])[C:4]([H:8])([H:9])[N:5]1[H:10])[H:6],8.8850796156323
[O:1]=[C:2]([C:3]([C:4]([C:5]#[C:6][H:12])([H:10])[H:11])([H:8])[H:9])[H:7]>>[O:1]=[C:2]([C@@:3]1([H:9])[C:4]([H:10])([H:11])[C:5]1=[C:6]([H:8])[H:12])[H:7],68.7731606775737
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C:4]1([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])([H:7])([H:8])[H:9]>>[C:1]([H:7])([H:8])([H:9])[H:11].[C:2]1([H:10])=[C:3]([H:12])[C:4]1([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18],115.37832427893801
[O:1]([C:2]([C:3]#[C:4][C:5](=[O:6])[H:10])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C:3]([C:4]#[C:5][H:10])=[O:6])([H:8])[H:9])[H:7],67.8390444823278
[C:1](/[C:2](=[N:3]\[O:4][H:10])[C:5]#[C:6][H:11])([H:7])([H:8])[H:9]>>[C:1]([C:6](=[C:5]=[C:2]=[N:3][O:4][H:10])[H:11])([H:7])([H:8])[H:9],100.96101630219
[C-:1](=[C:2]1[C-:3]=[O+:7][C:6]([H:11])=[C:5]([H:10])[C+:4]1[H:9])[H:8]>>[C:1](#[C:2][c:3]1[c:4]([H:9])[c:5]([H:10])[c:6]([H:11])[o:7]1)[H:8],2.665670467860295
[C:5](=[O:6])([H:8])[H:10].[O:1]([C:2](=[C:3]=[O:4])[H:9])[H:7]>>[O:1]([C:2]([C:3](=[O:4])[C:5](=[O:6])[H:10])([H:8])[H:9])[H:7],24.580397150319612
[C:1](/[N:2]=[C:3](/[N:4]([C:5](=[O:6])[H:12])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1](=[N+:2]=[C-:3][H:10])([H:8])[H:9].[N:4]([C:5](=[O:6])[H:12])([H:7])[H:11],74.178234284799
[O:1]([C:2]([C@@:3]1([H:11])[C@@:4]2([H:12])[C:5]([H:13])([H:14])[C@:6]1([H:15])[O:7]2)([H:9])[H:10])[H:8]>>[C:3]1[C@:4]2([H:12])[C:5]([H:13])([H:14])[C@@:6]1([H:15])[O:7]2.[O:1]([C:2]([H:9])([H:10])[H:11])[H:8],80.400982384405
[O:1]([C:5]1=[C:6]([H:12])[C:2]12[C:3]([H:8])([H:9])[C:4]2([H:10])[H:11])[H:7]>>[O:1]([C:2]1([C:5]#[C:6][H:12])[C:3]([H:8])([H:9])[C:4]1([H:10])[H:11])[H:7],59.06073210793521
[C:3]([O:4][H:11])([C:5]([O:6][H:14])([H:12])[H:13])([H:9])[H:10].[O:1]([C:2][H:8])[H:7]>>[O:1]([C:2]([C:3]([O:4][H:11])([C:5]([O:6][H:14])([H:12])[H:13])[H:10])([H:8])[H:9])[H:7],3.14640901596799
